US08008283B2
In a similar manner to Example 12, azosemide can be reacted with chloromethyl pivalate, triethylamine and sodium iodide in DMF to yield 5-[1-(t-Butylcarbonyloxymethyl)-1H-tetrazol-5-yl]-2-chloro-4-[(2-thienylmethyl)amino]benzenesulfonamide.

reactant | azosemide | C=1C=C(SC1)CNC2=CC(=C(C=C2C3=NNN=N3)S(=O)(=O)N)Cl | C12H11ClN6O2S2
reactant | chloromethyl pivalate | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | [I-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[1-(t-Butylcarbonyloxymethyl)-1H-tetrazol-5-yl]-2-chloro-4-[(2-thienylmethyl)amino]benzenesulfonamide | C(C)(C)(C)C(=O)OCN1N=NN=C1C=1C(=CC(=C(C1)S(=O)(=O)N)Cl)NCC=1SC=CC1 | C18H21ClN6O4S2
